US06140332
4-(3-Chloro-anilino)-6-(4-hydroxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine hydrobromide
With the exclusion of moisture, at approximately 0° C., 6 ml of boron tribromide in 100 ml of methylene chloride are added within the course of 40 min to 2.0 g (5.7 mmol) of 4-(3-chloro-anilino)-6-(4-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine in 60 ml of methylene chloride. After 21 hours' stirring at RT the reaction mixture is filtered. The crude product is precipitated from the filtrate with approximately 1 liter of hexane, filtered off and washed with hexane. The residue is taken up in 0.2 liter of water and 0.6 liter of ethyl acetate and rendered neutral with 5% NaHCO3 solution. The organic phase is separated off, washed with water and brine, dried over MgSO4 and concentrated by evaporation. Crystallization from hot methanol with hexane yields the title compound; analysis calculated for C18H14N4OBrCl (+0.13 H2O): C 51.47%, H 3.36%, N 13.34%, Br 19.02%, Cl 8.44%; found: C 51.58%, H 3.32%, N 13.37%, Br 19.29%, Cl 8.46%; 1H-NMR (360 MHz, DMSO-d6): 12.85 and 10.60 (2sb, 2H), 10.5-9.5 (sb), 8.37 (s, 1H), 7.92 (s, 1H), 7.67 (d, J=8, 2H), 7.63 (d, J=8, 1H), 7.51 (dd, J=8, 1 H), 7.33 (d, J=8, 1H), 7.06 (s, 1H), 6.90 (d, J=8, 2H).

reactant | boron tribromide | 6 ml | B(Br)(Br)Br | BBr3
reactant | 4-(3-chloro-anilino)-6-(4-methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | 5.7 mmol | ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)OC)C=CC1 | C19H15ClN4O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-Chloro-anilino)-6-(4-hydroxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine hydrobromide | Br.ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3)C3=CC=C(C=C3)O)C=CC1 | InChI=1S/C18H13ClN4O.BrH/c19-12-2-1-3-13(8-12)22-17-15-9-16(23-18(15)21-10-20-17)11-4-6-14(24)7-5-11;/h1-10,24H,(H2,20,21,22,23);1H
